US04592876
4-[[1-Ethoxy-2-(3-phenoxyphenyl)-2-oxoethyl]amino]benzoic acid
A 5.1 g. portion of 2,2-dihydroxy-1-[(3-phenoxy)phenyl]ethanone and 2.75 g. of p-aminobenzoic acid in 40 ml. of toluene was refluxed under argon for one hour, then cooled and evaporated to dryness. The residue was added to 40 ml. of ethanol and refluxed for 30 minutes, then cooled to 0° C., giving the desired product, m.p. 117°-127° C. (dec.).

reactant | 2,2-dihydroxy-1-[(3-phenoxy)phenyl]ethanone | OC(C(=O)C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H12O4
reactant | p-aminobenzoic acid | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-[[1-Ethoxy-2-(3-phenoxyphenyl)-2-oxoethyl]amino]benzoic acid | C(C)OC(C(=O)C1=CC(=CC=C1)OC1=CC=CC=C1)NC1=CC=C(C(=O)O)C=C1 | C23H21NO5
